US04181800
A mixture of methyl 2-(3-azido-4-formyl-2-oxo-1-azetidinyl)-2-phenylacetate (2.30 g.), sodium borohydride (310 mg), ethanol (40 ml.) and water (5 ml.) was stirred at -10° to 0° C. for an hour. The reaction mixture was adjusted to pH 4 to 5 with 10% hydrochloric acid at the same temperature, whereafter the ethanol was removed by distillation from the solution to give an aqueous residue, to which sodium chloride was added. The resultant solution was extracted twice with chloroform and the extract was washed with an aqueous sodium chloride. After drying the solution over magnesium sulfate, the solution was evaporated to dryness under reduced pressure to give a residue(2.02 g.), which was subjected to column chromatography on alumina(20 g.). Elution was carried out with chloroform and the fractions containing a desired compound were collected. The solvent was removed by distillation under reduced pressure to give methyl 2-(3-azido-4-hydroxymethyl-2-oxo-1-azetidinyl)-2-phenylacetate(0.95 g.).

reactant | methyl 2-(3-azido-4-formyl-2-oxo-1-azetidinyl)-2-phenylacetate | 2.30 g | N(=[N+]=[N-])C1C(N(C1C=O)C(C(=O)OC)C1=CC=CC=C1)=O | C13H12N4O4
reactant | sodium borohydride | 310 mg | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | methyl 2-(3-azido-4-hydroxymethyl-2-oxo-1-azetidinyl)-2-phenylacetate | 0.95 g | N(=[N+]=[N-])C1C(N(C1CO)C(C(=O)OC)C1=CC=CC=C1)=O | C13H14N4O4
